US07528129B2
24i) (R)-1-(3,5-dibromo-4-hydroxy-benzyl)-2-oxo-2-[4-(tetrahydropyran-4-yl)-piperazin-1-yl]-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
Prepared analogously to Example 81 from 100 mg (0.16 mmol) (R)-1-carboxy-2-(3,5-dibromo-4-hydroxy-phenyl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate and 30.6 mg (0.18 mmol) 1-(tetrahydropyran-4-yl)-piperazine, the reaction mixture being stirred overnight at RT.

reactant | (R)-1-carboxy-2-(3,5-dibromo-4-hydroxy-phenyl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.16 mmol, 100 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C(=C1)Br)O)Br)C(=O)O)C=CC=C2 | C24H25Br2N3O6
reactant | 1-(tetrahydropyran-4-yl)-piperazine | 0.18 mmol, 30.6 mg | O1CCC(CC1)N1CCNCC1 | C9H18N2O
product | (R)-1-(3,5-dibromo-4-hydroxy-benzyl)-2-oxo-2-[4-(tetrahydropyran-4-yl)-piperazin-1-yl]-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(N1CCN(CC1)C1CCOCC1)=O)CC1=CC(=C(C(=C1)Br)O)Br)C=CC=C2 | C33H41Br2N5O6
